US07842713B2
Preparation of Intermediate 277b: 5-Bromo-N,N-dimethylpyridine-2-carboxamide 1-oxide
To a solution of 5-bromo-N,N-dimethylpyridine-2-carboxamide (730 mg, 3.19 mmol) in 10 mL of HOAc was added 1 ml of 35% H2O2. After stirring the mixture at 78° C. for 14 hours, it was cooled and concentrated under reduced pressure. The residue was made alkaline with excess solid Na2CO3 and diluted with 25 mL of CHCl3 with stirring. The inorganic salts were filtered off, and the organic layer was dried over Na2SO4. The solvent was evaporated under reduced pressure to provided the product (750 mg, 98%), which was used without further purification. MS (ESI, pos): 247.00.

reactant | 5-bromo-N,N-dimethylpyridine-2-carboxamide | 3.19 mmol, 730 mg | BrC=1C=CC(=NC1)C(=O)N(C)C | C8H9BrN2O
reactant | H2O2 | 1 ml | OO | H2O2
solvent | HOAc | 10 mL | CC(=O)O | C2H4O2
product | 5-Bromo-N,N-dimethylpyridine-2-carboxamide 1-oxide | 750 mg, 98% | BrC1=CC=C([N+](=C1)[O-])C(=O)N(C)C | C8H9BrN2O2
